US04062869
A stirred suspension of m-cresyl 3-indolylglyoxylate (55.8 g.) and sodium borohydride (22.7 g.) in isopropanol (300 ml.) was slowly heated to reflux and held for 5 hours. The cooled mixture was diluted with water (2 l.), acidified with hydrochloric acid and extracted with dichloromethane. The extract was washed with sodium carbonate solution, dried and evaporated to give a mobile oil smelling strongly of cresol. This was distilled at 0.5 - 1 mm and the fraction collected at 160°-200° vapour temperature was crystallised from toluene (60 ml.), giving tryptophol as white crystals m.p. 57°-59°.

reactant | m-cresyl 3-indolylglyoxylate | 55.8 g | N1C=C(C2=CC=CC=C12)C(C(=O)OC1=CC(=CC=C1)C)=O | C17H13NO3
reactant | sodium borohydride | 22.7 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | cresol | C1(=CC=CC=C1O)C | C7H8O
solvent | isopropanol | 300 ml | C(C)(C)O | C3H8O
solvent | water | 2 l | O | H2O
product | tryptophol | C=1C=CC2=C(C1)C(=CN2)CCO | C10H11NO
